US04139617
A solution of 3β-ethoxy-17β-hydroxy-5-androsten-19-one acetate and sodium carbonate in 10% aqueous methanol is refluxed for a period of about four hours. The cooled solution is poured onto water. The crystals which form are filtered and recrystallized from an acetone-water mixture to yield 3β-ethoxy-17β-hydroxy-5-androsten-19-one.

reactant | 3β-ethoxy-17β-hydroxy-5-androsten-19-one acetate | C(C)(=O)O.C(C)O[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C=O)O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | CO | CH4O
product | 3β-ethoxy-17β-hydroxy-5-androsten-19-one | C(C)O[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C=O)O | C21H32O3
